### PR TITLE
feat: union-closed sets conjecture

### PR DESCRIPTION
**Pull request by b-mehta**
Co-authored-by: bhavikmehta@google.com

### CODE REVIEW

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 1]
```diff
@@ -0,0 +1,181 @@
...
+variable {n : Type*} [DecidableEq n] {A : Finset (Finset n)}
+
+/--
+For every finite union-closed family of sets, other than the family containing only the empty set,
+there exists an element that belongs to at least half of the sets in the family.
+-/
+@[category research open, AMS 5]
+theorem union_closed
+    (h_ne_singleton_empty : A ≠ {∅})
+    (h_union_closed : ∀ X ∈ A, ∀ Y ∈ A, X ∪ Y ∈ A) :
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/UnionClosed.lean]: I think it would be nice to state union_closed as a separate definition (considering it's used in most theorems)

**Comment by callesonne** [comment]
@b-mehta if you want I can implement my comment myself, and after that I think this is ready to merge.

**Comment by b-mehta** [comment]
Yeah, please go ahead

File: FormalConjectures/Wikipedia/UnionClosed.lean (hunk 1 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: It's just [SupClosed](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/SupClosed.html#SupClosed)

Comment (b-mehta) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: yea but that doesn't have nice syntactic equalities

Comment (alreadydone) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: [Disjoint](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Disjoint.html#Disjoint) also doesn't have nice syntactic equalities for `Set`, and the solution is to write API lemmas like [Set.disjoint_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Disjoint.html#Set.disjoint_iff).

Comment (b-mehta) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: Sure, but that becomes a bigger change to make, and it's then less clear that it's valuable.

Comment (alreadydone) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: What's the bigger change? You can just replace all `∀ X ∈ A, ∀ Y ∈ A, X ∪ Y ∈ A` by `SupClosed A` and state their equivalence as an API lemma in this file or some ForMathlib file?

Comment (b-mehta) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: And use that equivalence in the proofs too, making them all longer. So overall it makes the statements less clearly the same as they should be, and gives less clean proofs. I don't see the benefit of adding more lines of code and obscuring readability by using SupClosed, since this isn't mathlib.

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+/--
+Vuckovic and Zivkovic [Vu17] showed that the union-closed sets conjecture holds for set families
+whose universal set has cardinality at most 12.
+[Vu17] Vuckovic, Bojan; Zivkovic, Miodrag (2017). "The 12-Element Case of Frankl's Conjecture" (PDF). IPSI BGD Transactions on Internet Research. 13 (1): 65.
+-/
+@[category research solved, AMS 5]
+theorem union_closed.variants.univ_card [Fintype n]
+    (h_ne_singleton_empty : A ≠ {∅})
+    (hA : IsUnionClosed A)
+    (hA : Fintype.card n ≤ 12) :
```
Comment (mo271) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A)
    (h_card : Fintype.card n ≤ 12) :
```
naming both goals `hA` is probably a bit unpractical?

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+Their method, however, combined with the result of [Vu17], further shows that it holds for `#A ≤ 50`
+as well.
+[Ro10] Roberts, Ian; Simpson, Jamie (2010). "A note on the union-closed sets conjecture" (PDF). Australas. J. Combin. 47: 265–267.
+[Vu17] Vuckovic, Bojan; Zivkovic, Miodrag (2017). "The 12-Element Case of Frankl's Conjecture" (PDF). IPSI BGD Transactions on Internet Research. 13 (1): 65.
+-/
+@[category research solved, AMS 5]
+theorem union_closed.variants.family_card
+    (h_ne_singleton_empty : A ≠ {∅})
+    (hA : IsUnionClosed A)
+    (hA : #A ≤ 50) :
```
Comment (mo271) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A)
    (hA : #A ≤ 50) :
```

File: FormalConjectures/Wikipedia/UnionClosed.lean (hunk 2 above)
Comment (b-mehta) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: yup, I think this was sloppiness on my part

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+  sorry
+
+/--
+We can show the union-closed sets conjecture is true for the case where the universal set has
+cardinality 2, by brute force.
+-/
+@[category research solved, AMS 5]
+theorem union_closed.variants.univ_card_two (A : Finset (Finset (Fin 2)))
+    (h_ne_singleton_empty : A ≠ {∅})
+    (hA : IsUnionClosed A) :
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A) :
```

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 5]
```diff
@@ -0,0 +1,194 @@
...
+    ∃ i, (1 / 2 : ℚ) * #A ≤ #{x ∈ A | i ∈ x} := by
+  decide +revert +kernel
+
+/--
+We can show the union-closed sets conjecture is true for the case where the set family contains
+some singleton.
+-/
+@[category research solved, AMS 5]
+theorem union_closed.variants.singleton_mem
+    (hA : IsUnionClosed A)
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A)
```

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 6]
```diff
@@ -0,0 +1,194 @@
...
+  exact union_subset hX hY
+
+/--
+For every finite union-closed family of sets, other than the family containing only the empty set,
+there exists an element that belongs to at least half of the sets in the family.
+-/
+@[category research open, AMS 5]
+theorem union_closed
+    (h_ne_singleton_empty : A ≠ {∅})
+    (hA : IsUnionClosed A) :
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A) :
```

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 7]
```diff
@@ -0,0 +1,194 @@
...
+
+/--
+Yu [Yu23] showed that the union-closed sets conjecture holds with a constant of approximately
+0.38234 instead of 1/2.
+[Yu23] Yu, Lei (2023). "Dimension-free bounds for the union-closed sets conjecture". Entropy. 25 (5): 767.
+-/
+@[category research solved, AMS 5]
+theorem union_closed.variants.yu
+    (h_ne_singleton_empty : A ≠ {∅})
+    (hA : IsUnionClosed A) :
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    (h_union_closed : IsUnionClosed A) :
```

File: FormalConjectures/Wikipedia/UnionClosed.lean [hunk 8]
```diff
@@ -0,0 +1,194 @@
...
+    simp only [Set.InjOn, coe_filter, Set.mem_setOf_eq, and_imp, B]
+    rintro x - hx y - hy hxy
+    have := congr(($hxy).erase i)
+    rwa [erase_insert hx, erase_insert hy] at this
+  have h₂ : Set.MapsTo (insert i) B.toSet C.toSet := by
+    simp only [Set.MapsTo, coe_filter, Set.mem_setOf_eq, mem_insert, true_or, and_true,
+      and_imp, B, C]
+    intro x hx hix
+    rw [Finset.insert_eq]
+    exact hA _ hi _ hx
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/UnionClosed.lean]:
```suggestion
    exact h_union_closed _ hi _ hx
```

File: FormalConjectures/Wikipedia/UnionClosed.lean (hunk 2 above)
Comment (callesonne) [reply FormalConjectures/Wikipedia/UnionClosed.lean]: I think this was my bad when doing the final changes, but this was a bad name change for many reasons, so I agree with reverting it how it was.
